US08648066B2
6-(4-quinolin-4-yl-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-benzimidazol-2-amine
To a solution of 4-(4-quinolin-4-yl-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-benzene-1,2-diamine (90 mg, 0.14 mmol, synthesized according to the method of example 2) in methanol (1 mL) was added a 3M solution of cyanogen bromide in dichloromethane (0.10 mL), and the reaction mixture was stirred at room temperature for 8 d. During this time additional cyanogen bromide was added after 1 d (0.10 mL), 2 d (0.20 mL), 3 d (0.20 mL), and 4 d (0.20 mL) reaction time. Ethyl acetate (50 mL) was added, and the solution was washed with 0.5N aqueous sodium hydroxide (2×50 mL), water (50 mL), and brine (50 mL), dried over sodium sulfate, filtered and concentrated. Purification by preparative reverse phase HPLC (0.1% aqueous ammonium acetate-acetonitrile) provided the title Compound as the acetate salt (8 mg, 7% yield) as an off-white solid. 1H NMR (400 MHz, methanol-d4): 8.54 (d, 1H), 8.14 (d, 1H), 7.94 (d, 1H), 7.73 (m, 1H), 7.60-7.47 (m, 4H), 7.38 (m, 1H), 7.31 (d, 1H), 7.10 (d, 1H), 7.07 (d, 1H), 4.70 (s, 2H), 4.41 (m, 2H), 3.93 (m, 2H), 1.94 (s, 3H); MS (EI) for C25H21N5O: 408 (MH+).

reactant | 4-(4-quinolin-4-yl-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-benzene-1,2-diamine | N1=CC=C(C2=CC=CC=C12)N1CCOC2=C(C1)C=C(C=C2)C=2C=C(C(=CC2)N)N | C24H22N4O
reactant | cyanogen bromide | N#CBr | CBrN
reactant | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1 mL | CO | CH4O
solvent | dichloromethane | 0.10 mL | ClCCl | CH2Cl2
product | 6-(4-quinolin-4-yl-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-benzimidazol-2-amine | N1=CC=C(C2=CC=CC=C12)N1CCOC2=C(C1)C=C(C=C2)C=2C=CC1=C(NC(=N1)N)C2 | C25H21N5O
